US05318994
EXAMPLE 10: N-[2-(7-METHOXYNAPHTH-1-YL)ETHYL]-2-MORPHOLINOACETAMIDE
0.01 mol of morpholine is dissolved under magnetic agitation in 50 ml of acetone, and 0.012 mol of triethylamine and 0.01 mol of N-[2-(7-methoxynaphth-1-yl) ethyl]-2-bromoacetamide are added. The mixture is refluxed for 1 hour under magnetic agitation. The precipitate formed is spun down and the filtrate is evaporated. The residue is taken up in alkaline water, and the precipitate - is spun down, washed, dried and recrystallized in a toluene/cyclohexane mixture.

reactant | morpholine | 0.01 mol | N1CCOCC1 | C4H9NO
reactant | triethylamine | 0.012 mol | C(C)N(CC)CC | C6H15N
reactant | N-[2-(7-methoxynaphth-1-yl) ethyl]-2-bromoacetamide | 0.01 mol | COC1=CC=C2C=CC=C(C2=C1)CCNC(CBr)=O | C15H16BrNO2
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | N-[2-(7-METHOXYNAPHTH-1-YL)ETHYL]-2-MORPHOLINOACETAMIDE | COC1=CC=C2C=CC=C(C2=C1)CCNC(CN1CCOCC1)=O | C19H24N2O3
